US08835449B2
N-((2-Methoxyethyl)carbamothioyl)benzamide
2-Methoxyethylamine (17.7 mL, 202.2 mmol) was added dropwise over 30 minutes to a stirring solution of benzoylisothiocyanate (30.00 g, 183.8 mmol) in CH2Cl2 (300 mL) at room temperature under argon and the mixture was stirred at room temperature for 16 hours. The mixture was washed sequentially with 10% aqueous citric acid (75 mL), water (75 mL) and brine (75 mL), dried over MgSO4 and concentrated in vacuo. The resulting yellow oil solidified on standing to give the title compound (41.85 g, 96%). The material was used directly in the next step without further purification.

reactant | 2-Methoxyethylamine | 202.2 mmol, 17.7 mL | COCCN | C3H9NO
reactant | benzoylisothiocyanate | 183.8 mmol, 30.00 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-((2-Methoxyethyl)carbamothioyl)benzamide | 41.85 g, 96% | COCCNC(=S)NC(C1=CC=CC=C1)=O | C11H14N2O2S
